US06444662B1
Hyperforin Sodium Salt.
23 mg (1 mmol) sodium is dissolved in 50 ml anhydrous methanol. 536 mg (1 mmol) hyperforin is dissolved in this solution under stirring, and the solution evaporated. The residue is dissolved in 100 ml water and lyophilised. Yield: 556 mg of a light-coloured powder (99.6% of theoretical). Mp.: Degradation from 170° C. IR: 1420-1500 cm−(sv).

reactant | sodium | 1 mmol, 23 mg | [Na] | Na
reactant | hyperforin | 1 mmol, 536 mg | CC(C)C(=O)[C@]12C(=O)C(=C([C@](C1=O)(C[C@@H]([C@@]2(C)CCC=C(C)C)CC=C(C)C)CC=C(C)C)O)CC=C(C)C | C35H52O4
solvent | methanol | 50 ml | CO | CH4O
product | Hyperforin Sodium | CC(C)C(=O)[C@]12C(=O)C(=C([C@](C1=O)(C[C@@H]([C@@]2(C)CCC=C(C)C)CC=C(C)C)CC=C(C)C)O)CC=C(C)C.[Na] | InChI=1S/C35H52O4.Na/c1-22(2)13-12-19-33(11)27(16-14-23(3)4)21-34(20-18-25(7)8)30(37)28(17-15-24(5)6)31(38)35(33,32(34)39)29(36)26(9)10;/h13-15,18,26-27,37H,12,16-17,19-21H2,1-11H3;/t27-,33+,34+,35-;/m0./s1
